US06617339B1
3-(4-(4-Hydroxymethylimidazol-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-(4-t-Butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (0.59 g, 1.2 mmol) in anhydrous tetrahydrofuran (15 ml) was cooled to 0°. A solution of tetra-n-butylarnmonium fluoride (1 M, 5 ml, 5 mmol) was added and the mixture stirred 3 hours as the temperature rose to ambient. The mixture was evaporated to drvness, redissolved in dichloromethane (50 ml), washed with water (3×25 ml), and dried over magnesium sulfate. After filtration and evaporation the residue was purified by chromatography on a 10 g silica Mega Bond Elut® column. cluting with a gradient increasing in polarity from 0 to 10% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (245 mg). MS (ESP): 375 (MH+) for C17H15FN4O5.

reactant | 3-(4-(4-t-Butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 1.2 mmol, 0.59 g | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C23H29FN4O5Si
reactant | tetra-n-butylarnmonium fluoride | 5 mmol, 1 M, 5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(4-(4-Hydroxymethylimidazol-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 245 mg | OCC=1N=CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C17H15FN4O5
